US04125622
To 4.7 g of 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid, dissolved in 50 ml of diethyl ether, there is added dropwise, with stirring and ice cooling, ethereal diazomethane solution, until a pale yellow color just remained. After the usual working up, 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid methyl ester is obtained:

reactant | 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid | 4.7 g | C(CCCC)C1(CSC(C(O1)=O)CC(=O)O)C | C12H20O4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid methyl ester | COC(CC1C(OC(CS1)(C)CCCCC)=O)=O | C13H22O4S
